US04851418
(S)-7-[3-(Amino)-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester
A solution of 23.9 g (50 mmol) of (S)-1-cyclopropyl-7-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid, ethyl ester in 150 ml of trifluoroacetic acid was stirred at room temperature for four hours. The solvent was removed in vacuo and the residue was triturated with 5% sodium bicarbonate. The solid was removed by filtration, washed 5% sodium bicarbonate, water and dried in vacuo to give 17.8 g of the title compound, mp 227°-228°.

reactant | (S)-1-cyclopropyl-7-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid, ethyl ester | 50 mmol, 23.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C[C@H](CC1)NC(=O)OC(C)(C)C)F)=O)C(=O)OCC | C24H29F2N3O5
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-7-[3-(Amino)-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 17.8 g | N[C@@H]1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C19H21F2N3O3
